US08470847B2
1.4: 3-[6-Chloro-2-(ethylamino)-3-pyridinyl]-2-cyano-3-hydroxy-N-methyl-2-propenamide
3.98 g (100 mmol) of sodium hydride at 60% in mineral oil are added, in small amounts, to a solution, cooled to 0-5° C., of 9.80 g (100 mmol) of N-methylcyanoacetamide in 100 ml of anhydrous dimethylformamide. Once no more hydrogen is being given off, the mixture is stirred for 10 minutes at ambient temperature, and is then cooled again to 0-5° C. A solution of 10.09 g (49.8 mmol) of 2-(aminoethyl)-6-chloronicotinic acid fluoride in 60 ml of dimethylformamide is then added and the medium is stirred at ambient temperature overnight. 2.85 ml (49.8 mmol) of acetic acid are added and the volatile compounds are evaporated off under reduced pressure. The residue is taken up in water and the product is extracted twice with a dichloromethane:methanol (95:5) mixture and then once with an ethyl acetate:THF (2:1) mixture. The combined organic phases are dried over MgSO4 and then the solvents are evaporated off under reduced pressure. 19.0 g of product are obtained, which product is used as it is in the next step.

reactant | sodium hydride | 100 mmol, 3.98 g | [H-].[Na+]
reactant | N-methylcyanoacetamide | 100 mmol, 9.80 g | CNC(CC#N)=O | C4H6N2O
reactant | hydrogen | [H][H] | H2
reactant | 2-(aminoethyl)-6-chloronicotinic acid fluoride | 49.8 mmol, 10.09 g | NCCC1=C(C(=O)F)C=CC(=N1)Cl | C8H8ClFN2O
reactant | acetic acid | 49.8 mmol, 2.85 ml | C(C)(=O)O | C2H4O2
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-[6-Chloro-2-(ethylamino)-3-pyridinyl]-2-cyano-3-hydroxy-N-methyl-2-propenamide | 19.0 g | ClC1=CC=C(C(=N1)NCC)C(=C(C(=O)NC)C#N)O | C12H13ClN4O2
